US05294713
WORKING EXAMPLE 23 (S)-3-Benzyloxycarbonylmethyl-2-oxopiperazine-1-acetic acid hydrochloride
To a mixture of 8.6 g of (S)-4-t-butoxycarbonyl-1-t-butoxycarbonylmethyl-2-oxopiperazine-3-acetic acid, 2.5 g of benzyl alcohol, 50 mg of 4-dimethylaminopyridine and 30 ml of methylene chloride was added, at 0 C, 6.2 g of dicyclohexylcarbodiimide. The mixture was stirred for one hour. Insolubles were filtered off. To the filtrate was added 30 ml of trifluoroacetic acid, and the mixture was left standing for one hour. The reaction mixture was concentrated under reduced pressure. The concentrate was dissolved in a 4N HCl-ethyl acetate solution, and the solution was stirred for 30 minutes at room temperature, then subjected to evaporation to dryness. This procedure was repeated to give a crude product, which was processed with ether to afford 3.7 g of the title compound as amorphous powder.

reactant | (S)-4-t-butoxycarbonyl-1-t-butoxycarbonylmethyl-2-oxopiperazine-3-acetic acid | 8.6 g | C(C)(C)(C)OC(=O)N1[C@H](C(N(CC1)CC(=O)OC(C)(C)C)=O)CC(=O)O | C17H28N2O7
reactant | benzyl alcohol | 2.5 g | C(C1=CC=CC=C1)O | C7H8O
reactant | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
reactant | dicyclohexylcarbodiimide | 6.2 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
catalyst | 4-dimethylaminopyridine | 50 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | ether | CCOCC | C4H10O
product | (S)-3-Benzyloxycarbonylmethyl-2-oxopiperazine-1-acetic acid hydrochloride | 3.7 g | Cl.C(C1=CC=CC=C1)OC(=O)C[C@H]1C(N(CCN1)CC(=O)O)=O | InChI=1S/C15H18N2O5.ClH/c18-13(19)9-17-7-6-16-12(15(17)21)8-14(20)22-10-11-4-2-1-3-5-11;/h1-5,12,16H,6-10H2,(H,18,19);1H/t12-;/m0./s1
